US05525742
Step A-3. A stirred solution of 3-amino-5-chlorophenylcarbamic acid, 1,1-dimethylethyl ester (A-2, 2.06 g, 8.49 mmol) in 170 mL of a 50:50 mixture of methanol and 0.1N aqueous HCl is cooled to 0° C. An aqueous solution of sodium nitrite (1.2 M, 8.5 mL) is added dropwise. After 10 min, sulfamic acid (0.824 g) is added and then sodium azide (0.662 g) in 2.5 mL of water is added dropwise. The reaction mixture is stirred at 0° C. for 15 min, then poured into chloroform (500 mL). The phases are separated and the aqueous layer is extracted with chloroform (2×100 mL). The combined organic layers are dried (MgSO4), filtered and concentrated. The organic residue is purified by flash chromatography using 10% ethyl acetate in hexane as the eluent to afford 1.30 g of 3-azido-5-chlorophenylcarbamic acid, 1,1-dimethylethyl ester. (A-3). IR (neat) 2140 cm-1 ; 1H NMR (CDCl3) δ7.17 (m, 1 H), 7.00 (m, 1 H), 6.68 (m, 1 H), 6.53 (bs, 1 H), 1.51 (s, 9 H); 13C NMR (CDCl3) δ152.0, 141.9, 140.5, 135.6, 114.6, 113.5, 106.8, 81.3, 28.1; Mass Spec (70eV, EI) m/z 268 (parent), 212, 184, 156, 140, 128, 105, 57 (base), 40; Exact Mass calculated for C11H13ClN4O2 : 268.0727. Found: 268.0733.

reactant | 3-amino-5-chlorophenylcarbamic acid, 1,1-dimethylethyl ester | 8.49 mmol, 2.06 g | NC=1C=C(C=C(C1)Cl)NC(OC(C)(C)C)=O | C11H15ClN2O2
reactant | HCl | 0.1N | Cl | ClH
reactant | sodium nitrite | 1.2 M, 8.5 mL | N(=O)[O-].[Na+]
reactant | sulfamic acid | 0.824 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium azide | 0.662 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 2.5 mL | O | H2O
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 3-azido-5-chlorophenylcarbamic acid, 1,1-dimethylethyl ester | 1.30 g | N(=[N+]=[N-])C=1C=C(C=C(C1)Cl)NC(OC(C)(C)C)=O | C11H13ClN4O2
